US08193215B2
A solution of 2-{3-Phenyl-4-[(pyridin-2-ylmethyl)-amino]-thieno[2,3-b]pyridin-6-yl}-malonic acid diethyl ester (87 mg, 0.18 mmol) in dry THF (10 ml) was cooled to 0° C. under nitrogen. Diisobutyl Aluminium Hydride (1.46 ml of a 1M solution in hexanes, 1.46 mmol) was added dropwise over 2 min and the mixture stirred at 0° C. for 1 h, then allowed to reach room temperature overnight. The reaction was quenched at 0° C. by adition of 1M Rochelle's salt (10 ml). The mixture was extracted with DCM (3×20 ml), the extracts combined, washed with brine (50 ml), dried over magnesium sulphate and concentrated. The residue was purified on silica, eluting (Ethyl Acetate, 100%) to give 2-{3-Phenyl-4-[(pyridin-2-ylmethyl)-amino]-thieno[2,3-b]pyridin-6-yl}-propane-1,3-diol as a yellow oil. Yield=22.5 mg, (31.4%).

reactant | 2-{3-Phenyl-4-[(pyridin-2-ylmethyl)-amino]-thieno[2,3-b]pyridin-6-yl}-malonic acid diethyl ester | 0.18 mmol, 87 mg | C(C)OC(C(C(=O)OCC)C1=CC(=C2C(=N1)SC=C2C2=CC=CC=C2)NCC2=NC=CC=C2)=O | C26H25N3O4S
reactant | Diisobutyl Aluminium Hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-{3-Phenyl-4-[(pyridin-2-ylmethyl)-amino]-thieno[2,3-b]pyridin-6-yl}-propane-1,3-diol | C1(=CC=CC=C1)C1=CSC2=NC(=CC(=C21)NCC2=NC=CC=C2)C(CO)CO | C22H21N3O2S
